US06103910
b) (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid
A solution of 230 mg (0.4 mmol) (R)-1-[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester in 5 ml trifluoroacetic acid was stirred for 18 h at room temperature. The solvent was removed in vacuo and the residue suspended in 10 ml ether. The resulting suspension was stirred overnight. Filtration and drying gave 180 mg (96%) of the title compound as a white powder. MS m/e (%): 469 (M-H-, 100).

reactant | (R)-1-[[3-[2-[(R)-2-tert-butoxycarbonyl-pyrrolidin-1-yl]-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | 0.4 mmol, 230 mg | C(C)(C)(C)OC(=O)[C@@H]1N(CCC1)C(COC1=CC2=CC=CC=C2C=C1OCC(=O)N1[C@H](CCC1)C(=O)OC(C)(C)C)=O | C32H42N2O8
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-1-[[3-[2-[(R)-2-Carboxy-pyrrolidin-1-yl]-2-oxo-ethoxy]-naphthalen-2-yloxy]-acetyl]-pyrrolidine-2-carboxylic acid | 180 mg, 96% | C(=O)(O)[C@@H]1N(CCC1)C(COC=1C(=CC2=CC=CC=C2C1)OCC(=O)N1[C@H](CCC1)C(=O)O)=O | C24H26N2O8
